US06713474B2
b) 2-Methyl-4-(4,4,5,5-tetrametyl-1,3,2-dioxaborolan-2-yl)phenyl Phenyl Ether
The title compound was prepared in a 77% from 4-bromo-2-methyl-1-phenoxybenzene in a similar manner to that described for the preparation 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 7.67(s, 1H), 7.50(d, 1H), 7.38(t, 2H), 7.14(t, 1H), 6.94(d, 2H), 6.80(d, 1H), 2.21(t, 3H); TLC (heptane/ethyl acetate 9:1) Rf0.6.

reactant | 4-bromo-2-methyl-1-phenoxybenzene | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)C | C13H11BrO
reactant | 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile | O(C1=CC=CC=C1)C1=C(C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H20BNO3
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 2-Methyl-4-(4,4,5,5-tetrametyl-1,3,2-dioxaborolan-2-yl)phenyl Phenyl Ether | C1(=CC=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C19H23BO3
